US05773476
M45: (E)-3-(3, 5-dimethyl-4-hydroxyphenyl)-2-[(3-phenyl-n-propyl)aminosulfonyl]acrylonitrile
M45 was prepared with 3,5-dimethyl-4-hydroxybenzaldehyde and N-3-phenyl-n-propyl cyanomethylsulfonamide under similar conditions as described for M40 (part B).

reactant | 3,5-dimethyl-4-hydroxybenzaldehyde | CC=1C=C(C=O)C=C(C1O)C | C9H10O2
reactant | N-3-phenyl-n-propyl cyanomethylsulfonamide | C1(=CC=CC=C1)CCCNS(=O)(=O)CC#N | C11H14N2O2S
product | (E)-3-(3, 5-dimethyl-4-hydroxyphenyl)-2-[(3-phenyl-n-propyl)aminosulfonyl]acrylonitrile | CC=1C=C(C=C(C1O)C)/C=C(\C#N)/S(=O)(=O)NCCCC1=CC=CC=C1 | C20H22N2O3S
